US06337196B1
1.33 mmol of hexanal (133 mg) were dissolved in 3 ml of water-saturated diisopropyl ether. 1.1 ml of aqueous hydroxynitrile lyase solution (900 IU/ml) were added at room temperature and the mixture was stirred at room temperature for 5 min. 300 μl of anhydrous hydrocyanic acid (7.88 mmol) were then added and the reaction vessel was sealed pressure-tight. After stirring at room temperature for 1.5 hours, the phases were separated, the aqueous phase was extracted three times with 5 ml of diisopropyl ether each time and the combined ether phases were dried using anhydrous sodium sulfate. The solvent was removed under reduced pressure and the crude cyanohydrin obtained in this way was subjected to purification by column chromatography. 140 mg of (S)-2-hydroxyheptanenitrile were obtained (83% isolated yield).

reactant | hexanal | 1.33 mmol, 133 mg | C(CCCCC)=O | C6H12O
reactant | hydrocyanic acid | 7.88 mmol, 300 μl | C#N | CHN
solvent | water | 3 ml | O | H2O
product | (S)-2-hydroxyheptanenitrile | 140 mg | O[C@H](C#N)CCCCC | C7H13NO
